US09260391B2
HG-6 was also synthesized using the following alternative method: tetrabenazine (317 mg, 1 mmol) was dissolved in ethanol (EtOH, 10 ml) and hydroxylamine hydrochloride (70 mg, 1 mmol) was added, followed by the addition of pyridine (1 ml). The reaction was refluxed for 2 hours. After removing solvent, the residue was redissolved in methanol (MeOH, 10 ml). To this solution, MoO3 (80 mg) and sodium borohydride (80 mg) were slowly added. The reaction was stirred at room temperature for 24 hours and quenched with water. The aqueous solution was extracted with methylene chloride (10 ml) twice. The combined organic phase was washed with brine and dried with sodium sulfate. After removing solvent, the residue was purified by chromatography. Two hundred and fifty milligrams of HG-6 (3-isobutyl-9,10-dimethoxy-2,3,4,6,7,11b-hexahydro-1H-pyrido[2,1-a]isoquinolin-2-amine) was obtained as white solid (yield: 78%).

reactant | tetrabenazine | 1 mmol, 317 mg | CC(C)CC1CN2CCC3=CC(=C(C=C3C2CC1=O)OC)OC | C19H27NO3
reactant | hydroxylamine hydrochloride | 1 mmol, 70 mg | Cl.NO
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-isobutyl-9,10-dimethoxy-2,3,4,6,7,11b-hexahydro-1H-pyrido[2,1-a]isoquinolin-2-amine | C(C(C)C)C1C(CC2N(CCC3=CC(=C(C=C23)OC)OC)C1)N | C19H30N2O2
